US06864279B2
A solution of 4-hydroxy-chromen-2-one (650 mg) and 2-carboxybenzyladehyde (300 mg) in EtOH was heated to reflux for 4 hours, cooled to room temperature then concentrated in vacuo to give a crude oil, which was diluted with water. The precipitated 4-hydroxy-chromen-2-one was collected by filtration (490 mg). A second crop of solid was collected from the mother liquor and triturated with hot EtOAc and filtered to provide 4-Hydroxy-3-(3-oxo-1,3-dihydro-isobenzofuran-1-yl)-chromen-2-one as white solid. MS: 293 [M-H].

reactant | 4-hydroxy-chromen-2-one | 650 mg | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | 4-Hydroxy-3-(3-oxo-1,3-dihydro-isobenzofuran-1-yl)-chromen-2-one | OC1=C(C(OC2=CC=CC=C12)=O)C1OC(C2=CC=CC=C12)=O | C17H10O5
